US09212348B2
Synthesis of (5-hydroxy-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-4-yl)(phenyl)methanone (Compound No. 4-71 of the Present Invention)
1.60 g (3.63 mmol) of 4-bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-ylbenzoate was dissolved in 16 mL of tetrahydrofuran and cooled with a coolant (acetone/dry ice) to −60° C., and after dropwise addition of 2.60 ml (4.24 mmol) of 1.63 M n-butyllithium in n-hexane, stirred at 72° C. for 4 hours under a nitrogen atmosphere. The reaction was quenched with distilled water, and the reaction solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:20) to give 520 mg of the desired product as a yellow oil.

reactant | 4-bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-ylbenzoate | 3.63 mmol, 1.60 g | BrC=1C(=NN(C1C1=C(C(=O)[O-])C=CC=C1)C(CC1=CC=CC=C1)(C)C)C(C)C
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | n-butyllithium | 4.24 mmol, 1.63 M, 2.60 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | (5-hydroxy-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-4-yl)(phenyl)methanone | 520 mg | OC1=C(C(=NN1C(CC1=CC=CC=C1)(C)C)C(C)C)C(=O)C1=CC=CC=C1 | C23H26N2O2
